US07253286B2
N6-(2-Fluoroethyl)-4-(4-((cyclopropylamino)carbonyl)amino-3-methylphenoxy)-7-methoxy-6-quinolinecarboxamide
After dissolving methyl 4-(4-amino-3-methylphenoxy)-7-methoxy-6-quinolinecarboxylate (30 mg, 0.0736 mmol) in N,N-dimethylformamide (1.4 ml), there were added triethylamine (0.071 ml) and benzotriazol-1-yltris(dimethylamino)phosphonium hexafluorophosphate (63 mg) and the mixture was stirred at room temperature for 5 hours. Water was added to the reaction solution, extraction was performed with ethyl acetate/tetrahydrofuran, the extract was washed with saturated brine and dried over anhydrous magnesium sulfate, and the filtrate was distilled off under reduced pressure. The obtained crystals were suspended in ethanol, and after diluting the suspension with diethyl ether, the crystals were filtered out, washed with diethyl ether and dried by aspiration to obtain the title compound (22 mg, 0.0486 mmol, 66.03%) as light yellow crystals.

reactant | methyl 4-(4-amino-3-methylphenoxy)-7-methoxy-6-quinolinecarboxylate | 0.0736 mmol, 30 mg | NC1=C(C=C(OC2=CC=NC3=CC(=C(C=C23)C(=O)OC)OC)C=C1)C | C19H18N2O4
reactant | triethylamine | 0.071 ml | C(C)N(CC)CC | C6H15N
reactant | benzotriazol-1-yltris(dimethylamino)phosphonium hexafluorophosphate | 63 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)[P+](N(C)C)(N(C)C)N(C)C
reactant | Water | O | H2O
reactant | N,N-dimethylformamide | 1.4 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate tetrahydrofuran | C(C)(=O)OCC.O1CCCC1
product | N6-(2-Fluoroethyl)-4-(4-((cyclopropylamino)carbonyl)amino-3-methylphenoxy)-7-methoxy-6-quinolinecarboxamide | 0.0486 mmol, 22 mg, 66.03% | FCCNC(=O)C=1C=C2C(=CC=NC2=CC1OC)OC1=CC(=C(C=C1)NC(=O)NC1CC1)C | C24H25FN4O4
